US04065568
Analogously to Example 1, 0.04 mol of 3-hydrazino-6-chloro-indazole and 0.044 mol of chlorocarbonic acid methyl ester in 25 ml of pyridine at 0° - 5° C, followed by 2 hours at room temperature, give 3-methoxycarbonylhydrazino-6-chloroindazole (melting point 223°- 224° C after recrystallisation from methanol: yield, 73% of theory).

reactant | 3-hydrazino-6-chloro-indazole | 0.04 mol | N(N)C1=NNC2=CC(=CC=C12)Cl | C7H7ClN4
reactant | chlorocarbonic acid methyl ester | 0.044 mol | COC(=O)Cl | C2H3ClO2
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | 3-methoxycarbonylhydrazino-6-chloroindazole | 73% | COC(=O)NNC1=NNC2=CC(=CC=C12)Cl | C9H9ClN4O2
